US05380746
2-(5-Benzyloxy-1H-indol-3-yl)-3-(1H-indol-3-yl)maleinimide
The 2-(5-benzyloxy-1H-indol-3-yl)-3-(1-tert.-butoxycarbonyl-1H-indol-3-yl)-N-methylmaleinimide used as starting material is prepared as follows: A solution of 20 mmol ethyl magnesium bromide in 30 ml tetrahydrofuran is mixed with a solution of 4.46 g (20 mmol) 5-benzoxyindole in 20 ml tetrahydrofuran. The reaction mixture is maintained at 50° C. for 1 hour and then, within the course of 1 hour, a solution of 3.0 g (7.4 mmol) 2-bromo-3-[1-tert.-butoxycarbonyl-1H-indol-3-yl]-N-methylmaleinimide (Tetrahedron, 44, 2887/1988) in 40 ml tetrahydrofuran added dropwise thereto. The reaction mixture is heated under reflux for 2 hours, allowed to cool and then decomposed with a saturated aqueous solution of ammonium chloride. The reaction product is extracted with ethyl acetate, the organic phase is dried over anhydrous sodium sulphate and evaporated to dryness. The residue is flash chromatographed on silica gel (Merck Type 7734) using dichloromethane as elution agent. After elution of unreacted starting material, the desired product is obtained by evaporation of the appropriate fractions and stirring the red residue with a little toluene. There are obtained 1.3 g (32% of theory) of red crystals; m.p. 123° C.

reactant | 2-(5-benzyloxy-1H-indol-3-yl)-3-(1-tert.-butoxycarbonyl-1H-indol-3-yl)-N-methylmaleinimide | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)=O)C | C33H29N3O5
reactant | ethyl magnesium bromide | 20 mmol | C(C)[Mg]Br
reactant | 5-benzoxyindole | 20 mmol, 4.46 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 2-bromo-3-[1-tert.-butoxycarbonyl-1H-indol-3-yl]-N-methylmaleinimide | 7.4 mmol, 3.0 g | BrC=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)=O)C | C18H17BrN2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(5-Benzyloxy-1H-indol-3-yl)-3-(1H-indol-3-yl)maleinimide | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=1C(=O)NC(C1C1=CNC2=CC=CC=C12)=O | C27H19N3O3
